US04618617
To a solution of 5.0 g of 3-(2-chloroethyl)-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole in 100 ml of ethanol was added 12.5 ml of 15% aqueous sodium methyl mercaptan. After stirring with reflux for 1 hour, the reaction mixture was concentrated under reduced pressure, diluted with water and extracted with ethyl acetate. The organic phase was washed with water, dried over magnesium sulfate and evaporated. The residue was chromatographed over silica gel using methylene chloride to give 4.78 g of 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-(2-methylthioethyl)-1,2,4-oxadiazole as a light yellow oil, nD21 1.5860.

reactant | 3-(2-chloroethyl)-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole | 5.0 g | ClCCC1=NOC(=N1)C(C1=CC(=C(C=C1)C1=CC=CC=C1)F)C | C18H16ClFN2O
reactant | sodium methyl mercaptan | 12.5 ml | CS.[Na]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-(2-methylthioethyl)-1,2,4-oxadiazole | 4.78 g | FC=1C=C(C(C)C2=NC(=NO2)CCSC)C=CC1C1=CC=CC=C1 | C19H19FN2OS
